US06296785B1
The process of Step 1, Example 4 was followed except that 292 grams of 1,2-dimethoxy benzene, 297 grams of benzoyl chloride, and 281 grams of aluminum chloride were used to yield 490 grams of 3,4-dimethoxy benzophenone.

reactant | 1,2-dimethoxy benzene | 292 grams | COC1=C(C=CC=C1)OC | C8H10O2
reactant | benzoyl chloride | 297 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 281 grams | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3,4-dimethoxy benzophenone | 490 grams | COC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC | C15H14O3
